US07387845B2
In a nitrogen flow, 1 g (2.98 mmol) of 9,10-dibromoanthracene and 1.44 g (4.46 mmol) of bis(4-methylphenyl)aminobenzene-4-boronic acid were dissolved and stirred in a deaerated mixture solvent of 100 ml of toluene and 50 ml of ethanol, followed by dropping a sodium carbonate aqueous solution prepared by dissolving 9 g of anhydrous sodium carbonate in 45 ml of water. After stirring the mixture for 30 minutes, 257 mg (0.223 mmol) of tetrakis(triphenylphosphine)palladium was added thereto. Then, the mixture was heated and stirred for about 3 hours in an oil bath heated at 80° C. After returning the reaction solution to room temperature, 40 ml of water and 50 ml of ethyl acetate were added thereto and the resultant solution was then separated into an aqueous layer and an organic layer. Furthermore, the aqueous layer was extracted with toluene and ethyl acetate, and was then combined with the previous organic layer and dried with magnesium sulfate. The solvent was evaporated and then the residue was purified by silicagel-column chromatography (toluene:hexane=1:2) to obtain 1.13 g of 9-[bis(4-methylphenyl)amino]phenyl-10-bromoanthracene.

reactant | 9,10-dibromoanthracene | 2.98 mmol, 1 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | bis(4-methylphenyl)aminobenzene-4-boronic acid | 4.46 mmol, 1.44 g | CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)B(O)O | C20H20BNO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 45 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.223 mmol, 257 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-[bis(4-methylphenyl)amino]phenyl-10-bromoanthracene | 1.13 g | CC1=CC=C(C=C1)N(C=1C2=CC=CC=C2C(=C2C=CC=C(C12)C1=CC=CC=C1)Br)C1=CC=C(C=C1)C | C34H26BrN
